US09445594B2
Preparation of 1-(2-isopropylphenyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (F3)
To a stirred solution of 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)aniline (0.10 g, 0.31 mmol) in tetrahydrofuran (5 mL) was added 1-isopropyl-2-isothiocyanatobenzene (0.10 g, 0.56 mmol). The solution was heated to reflux for 24 hours The solvent was removed under reduced pressure, then triturated with methanol to generate a white solid which was filtered and air-dried to provide the title compound (0.070 g, 45%).

reactant | 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)aniline | 0.31 mmol, 0.10 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(N)C=C1)(F)F | C15H11F3N4O
reactant | 1-isopropyl-2-isothiocyanatobenzene | 0.56 mmol, 0.10 g | C(C)(C)C1=C(C=CC=C1)N=C=S | C10H11NS
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-(2-isopropylphenyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | 0.070 g, 45% | C(C)(C)C1=C(C=CC=C1)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C25H22F3N5OS
